US06329381B1
6-Amino-9-benzyl-2-butoxy-8-hydroxypurine
6-Amino-9-benzyl-2-butoxy-8-methoxypurine (20 mg, 0.061 mmol) in concentrated hydrochloric acid (5 ml) was stirred for 3 hours at room temperature. The reaction mixture was made basic with 28% aqueous ammonia. The resulting crystals were filtered, washed with water, and the crude product was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (13 mg, yield 68%).

reactant | 6-Amino-9-benzyl-2-butoxy-8-methoxypurine | 0.061 mmol, 20 mg | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CC1=CC=CC=C1)OC | C17H21N5O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 6-Amino-9-benzyl-2-butoxy-8-hydroxypurine | 13 mg, yield 68% | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CC1=CC=CC=C1)O | C16H19N5O2
